US20010027196A1
2-Amino-4-butylsulfanyl-6-phenyl-pyrimidine-5-carbonitrile
From 2-amino-4-phenyl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile, butyl bromide and sodium ethylate in ethanol. EI-MS m/e (%): 284 (M+, 48), 283 ([M—H]+, 100), 241 (([M—C3H7]+, 95), 228 (([M—C2H5CH═CH2]+, 92).

reactant | 2-amino-4-phenyl-6-thioxo-1,6-dihydro-pyrimidine-5-carbonitrile | NC=1NC(C(=C(N1)C1=CC=CC=C1)C#N)=S | C11H8N4S
reactant | butyl bromide | C(CCC)Br | C4H9Br
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-butylsulfanyl-6-phenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SCCCC)C#N)C1=CC=CC=C1 | C15H16N4S
